US07435823B2
Preparation of 3-(1-methylpiperidin-4-yl)-5-(trifluoromethyl)benzenamine
Into a 100 mL round bottom flask was placed 3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-5-(trifluoromethyl)benzenamine (2.05 g, 8 mmol) and EtOH (40 mL). Flask sparged with argon, then 10% Palladium on carbon (100 mg) is added. Argon removed and replaced with hydrogen via balloon, stirs overnight at RT. Work up: Filtered reaction mixture through Celite® under inert atmosphere. Removed solvents under reduced pressure. Purified via silica column using 0 to 100% 90/10/1 (DCM/MeOH/NH4OH) gradient in DCM. Affords a pale yellow oil. LC-MS(+) shows mass 259 (M+H), as expected for C13H17F3N2, mw 258.28.

reactant | 3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-5-(trifluoromethyl)benzenamine | 8 mmol, 2.05 g | CN1CCC(=CC1)C=1C=C(C=C(C1)C(F)(F)F)N | C13H15F3N2
solvent | EtOH | 40 mL | CCO | C2H6O
product | 3-(1-methylpiperidin-4-yl)-5-(trifluoromethyl)benzenamine | CN1CCC(CC1)C=1C=C(C=C(C1)C(F)(F)F)N | C13H17F3N2
